reaction_geognn/datasets/wb97xd3/splits/fold_0/aam_train.csv
AAM,ea
[O:1]([C@@:2]1([H:7])[C:3]([H:8])([H:9])[C@:4]1([O:5][H:11])[H:10])[H:6]>>[O:1]([C@@:2]1([H:7])[C:3]([H:8])([H:9])[C:4]1)[H:6].[O:5]([H:10])[H:11],82.8916733158519
[C:1]([C:2]([N:3]([C:4]([C:5]#[N:6])([H:13])[H:14])[H:12])([H:10])[H:11])([H:7])([H:8])[H:9]>>[C:1]([C@@:2]1([H:11])[N:3]([H:12])[C:4]([H:13])([H:14])[C:5][N:6]1[H:10])([H:7])([H:8])[H:9],79.26439706639141
[C-:1]([O+:2]=[C:3]([C:4]([H:11])([H:12])[H:13])[H:10])([H:7])[H:8].[C:5]([O:6][H:16])([H:9])([H:14])[H:15]>>[C:1]([O:2][C@@:3]([C:4]([H:11])([H:12])[H:13])([C:5]([O:6][H:16])([H:14])[H:15])[H:10])([H:7])([H:8])[H:9],21.08998466266931
[C:1]([C@@:2]12[C:3]([H:11])([H:12])[O:5][C@:6]1([H:14])[C@@:7]2([C:4][H:13])[H:15])([H:8])([H:9])[H:10]>>[C:1]([C@@:2]12[C:3]([H:11])([H:12])[C@@:4]3([H:13])[O:5][C@:6]1([H:14])[C@@:7]23[H:15])([H:8])([H:9])[H:10],48.95934228371589
[C:1]([O:2][C:3](=[O:4])[C:5]#[N:6])([H:7])([H:8])[H:9]>>[C:1]1([H:8])([H:9])[O:2][C:3](=[O:4])/[C:5]1=[N:6]/[H:7],93.42448967346641
[C:1]([C:2](=[C:3]([H:13])[H:14])[H:11])([H:8])([H:9])[H:10].[O:4]([C:5]([C:6]([C:7]([H:19])([H:20])[H:21])([H:17])[H:18])([H:15])[H:16])[H:12]>>[C:1]([C:2]([C:3]([O:4][C:5]([C:6]([C:7]([H:19])([H:20])[H:21])([H:17])[H:18])([H:15])[H:16])([H:13])[H:14])([H:11])[H:12])([H:8])([H:9])[H:10],56.2090383447867
[C:1]([C@:2]1([H:10])[C@:3]([C:5]#[N:6])([H:11])[O:4]1)([H:7])([H:8])[H:9]>>[C:1]([C:2]([C:3](=[O:4])[C:5]#[N:6])([H:10])[H:11])([H:7])([H:8])[H:9],66.9866288557969
[C-:3]#[C:4][C+:5]([O:6][H:7])[H:8].[O+:1]#[C-:2]>>[O:1]=[C:2]([C:3]#[C:4][C:5](=[O:6])[H:8])[H:7],22.033188768408507
[C:1]([C:2]([N:3]([C:4](=[O:5])[H:16])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10].[O:6]=[C:7]([H:14])[H:15]>>[C:1]([C:2]([N:3]([C:4](=[O:5])[O:6][C:7]([H:14])([H:15])[H:16])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10],67.42948977962163
[C:1]([C:2]([C:3]([H:11])([H:12])[H:13])([C:4]([C:5]#[N:6])([H:14])[H:15])[H:10])([H:7])([H:8])[H:9]>>[C:1]([C:2]([C:3]([H:11])([H:12])[H:13])([C:4](=[C:5]=[N:6][H:15])[H:14])[H:10])([H:7])([H:8])[H:9],94.0336256971778
[N:1](=[C:2](/[O:3][C:4](=[O:5])[H:8])[H:7])\[H:6]>>[N:1]([C-:2]=[O+:3][C:4](=[O:5])[H:8])([H:6])[H:7],72.6577394346756
[O:1]([O:6][C:5](=[C:2]1[C:3]([H:8])([H:9])[C:4]1([H:10])[H:11])[H:12])[H:7]>>[O:1]([C:2]1([C:5](=[O:6])[H:12])[C:3]([H:8])([H:9])[C:4]1([H:10])[H:11])[H:7],48.075269975873496
[C:1](=[C:2]([H:10])[H:11])([H:7])[H:8].[C:3](=[N:4][H:14])([H:12])[H:13].[C:5](=[O:6])([H:9])[H:15]>>[C:1]([C:2]([C:3]([N:4]([C:5](=[O:6])[H:15])[H:14])([H:12])[H:13])([H:10])[H:11])([H:7])([H:8])[H:9],31.182531379308905
[N:1]([C:2](=[O:3])[N:4](/[C:5](=[N:6]/[H:11])[H:10])[H:9])([H:7])[H:8]>>[N:1]([C@@:2]12[O:3][N:6]([H:11])[C@:5]1([H:10])[N:4]2[H:9])([H:7])[H:8],125.107554025378
[C:1]([C:2](=[C:3]([H:12])[H:13])[N:5]([C+:6]([O-:7])[H:16])[H:15])([H:8])([H:9])[H:10].[O:4]([H:11])[H:14]>>[C:1]([C@@:2]([C:3]([O:4][H:14])([H:12])[H:13])([N:5]([C:6](=[O:7])[H:16])[H:15])[H:11])([H:8])([H:9])[H:10],60.44106938623953
[C:1]([C@@:2]1([H:11])[C:3]([H:12])([H:13])[C@:4]1([C:5]([O+:7]=[C-:6][H:17])([H:15])[H:16])[H:14])([H:8])([H:9])[H:10]>>[C:1]([C@@:2]1([H:11])[C:3]([H:12])([H:13])[C@:4]1([C:5]([C:6](=[O:7])[H:17])([H:15])[H:16])[H:14])([H:8])([H:9])[H:10],45.988813638063604
[C:1]([O:2][C:3](=[O:4])[C:5]([O+:7]=[C-:6][H:13])([H:11])[H:12])([H:8])([H:9])[H:10]>>[C:1]([O:2][C:3](=[O:4])[C:5]([C:6](=[O:7])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10],49.718796667773105
[C:1]([C:2]([C@@:3]([O:4][H:14])([C:5]([C:6](=[O:7])[H:17])([H:15])[H:16])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10]>>[C:1]([C:2]([C:3](=[O:4])[C:5]([C:6](=[O:7])[H:17])([H:15])[H:16])([H:11])[H:12])([H:8])([H:9])[H:10].[H:13][H:14],83.9755099398123
[N:1](=[C:2])[H:6].[N:3]([C:4](=[O:5])[H:9])([H:7])[H:8]>>[N:1](=[C:2](/[N:3]([C:4](=[O:5])[H:9])[H:8])[H:7])\[H:6],62.7861027386968
[C:1]([C+:2]1[C:3]([H:10])([H:11])[C:4]([H:12])([H:13])[C:5]1=[C-:6][H:14])([H:7])([H:8])[H:9]>>[C:1]([C:2]1([C:5]#[C:6][H:14])[C:3]([H:10])([H:11])[C:4]1([H:12])[H:13])([H:7])([H:8])[H:9],16.930348111830703
[C:1]([O:4]/[C:3](=[N:2]/[H:11])[N:5]([C:6]([H:12])([H:13])[H:14])[C:7]([H:15])([H:16])[H:17])([H:8])([H:9])[H:10]>>[C:1]([N:2]([C:3](=[O:4])[N:5]([C:6]([H:12])([H:13])[H:14])[C:7]([H:15])([H:16])[H:17])[H:11])([H:8])([H:9])[H:10],55.89963146504441
[C-:5]#[O+:6].[C:3](=[O:4])([H:10])[H:11].[O:1]([C:2]([H:8])([H:9])[H:12])[H:7]>>[O:1]([C:2]([C:3]([O:4][C:5](=[O:6])[H:12])([H:10])[H:11])([H:8])[H:9])[H:7],65.7762707393757
[O:1]([C:2][C@@:3]1([H:9])[C:4]([H:10])([H:11])[N:5]1[C:6](=[O:7])[H:12])[H:8]>>[O:1]=[C:2]([C@@:3]1([H:9])[C:4]([H:10])([H:11])[N:5]1[C:6](=[O:7])[H:12])[H:8],31.379160490262294
[N:4](=[C:5](/[O:6][H:7])[H:13])\[H:12].[O:1]=[C:2]([C:3]([H:8])([H:10])[H:11])[H:9]>>[O:1]([C:2]([C:3]([N:4]([C:5](=[O:6])[H:13])[H:12])([H:10])[H:11])([H:8])[H:9])[H:7],55.757435319192766
[N:1]([C-:2]=[O+:3][C@@:5]1([H:11])[C:4]([H:9])([H:10])[O:6]1)([H:7])[H:8]>>[N:1]([C:2](=[O:3])[C:4]([C:5](=[O:6])[H:11])([H:9])[H:10])([H:7])[H:8],36.4014451276898
